US05550205
Monocarboxylated bisphenol A [i.e., 2-(4-hydroxyphenyl)-2-(3'-carboxy-4'-hydroxyphenyl)propane] was obtained by carboxylating a potassium salt of bisphenol A with CO2 gas and then purifying the product by recrystallizing it from toluene solvent. This monocarboxylated bisphenol A was esterified with an excess of diphenyl carbonate and then refined in a column to obtain 2-(4-hydroxyphenyl)-2-(3'-phenoxycarbonyl-4'-hydroxyphenyl)propane with a purity of at least 99 percent (according to HPLC analysis).

reactant | potassium | [K] | K
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | CO2 | C(=O)=O | CO2
product | 2-(4-hydroxyphenyl)-2-(3'-phenoxycarbonyl-4'-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC(=C(C=C1)O)C(=O)OC1=CC=CC=C1 | C22H20O4
